US07186715B2
Step 1: 1-Methanesulfonyl-piperidin-3-ol
Piperidin-3-ol (5.0 g, 49.4 mmol) was dissolved in 1/1 THF/methylene chloride (100 mL). Triethylamine (17 mL, 123 mmol) was added, and the solution was cooled to 0° C. Methanesulfonyl chloride (4.0 mL, 52 mmol) was added dropwise. The mixture was warmed to r.t. and stirred overnight. The reaction was diluted with ethyl acetate (800 mL), washed with 1 N HCl (100 mL), water (75 mL), saturated aqueous sodium bicarbonate (75 mL) and brine (75 mL), and then dried over anhydrous sodium sulfate. The solvent was concentrated under reduced pressure and purified via silica gel chromatography (ethyl acetate) to afford the title compound as a clear oil.

reactant | Piperidin-3-ol | 49.4 mmol, 5.0 g | N1CC(CCC1)O | C5H11NO
reactant | Triethylamine | 123 mmol, 17 mL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 52 mmol, 4.0 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF methylene chloride | 100 mL | C1CCOC1.C(Cl)Cl
solvent | ethyl acetate | 800 mL | C(C)(=O)OCC | C4H8O2
product | 1-Methanesulfonyl-piperidin-3-ol | CS(=O)(=O)N1CC(CCC1)O | C6H13NO3S
